US07169804B2
A suspension of 3.48 g of 3-(R)-hydroxymethyl-piperidine, 8.72 g of di-tert.butyl-dicarbonat and 4.0 g of N-methyl-morpholine in 70 ml of dioxane is stirred for ca. 18 hours at room temperature. From the mixture obtained the solvent is evaporated off and the evaporation residue is dissolved in CH2Cl2 and extracted with 1N HCl. The organic phase is dried and the solvent is evaporated off. 5.08 g of N—BOC-3(R)-hydroxymethyl-piperidine are obtained which may be used for further reaction without further puification.

reactant | 3-(R)-hydroxymethyl-piperidine | 3.48 g | OC[C@H]1CNCCC1 | C6H13NO
reactant | di-tert.butyl-dicarbonat | 8.72 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methyl-morpholine | 4.0 g | CN1CCOCC1 | C5H11NO
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | N—BOC-3(R)-hydroxymethyl-piperidine | 5.08 g | C(=O)(OC(C)(C)C)N1C[C@@H](CCC1)CO | C11H21NO3
